US04987258
An iron apparatus equipped with horseshoe stirrer and heating and cooling means is charged with 293 g of o-nitro-isobutoxybenzene, 395 g of solvent naphtha and 220 g of zinc dust. The reaction mixture is heated with stirring to 80° C., and first 24 g of 50% strength sodium hydroxide solution and then 21 g of water are added with temporary cooling. To complete the reduction, stirring is continued at 80° C. with the addition of further zinc dust a little at a time (in total 53 g) until a spot test with the reaction solution shows a colorless runoff. By further addition of water the zinc oxide hydrate is then grained. The zinc oxide hydrate is then separated by filtration from the organic phase containing the 2,2'-diisobutoxyhydrazobenzene and as byproduct 1-isobutoxy-2-aminobenzene. After extraction of the byproduct with dilute hydrochloric acid the organic phase is added dropwise at 15°-20° C. to hydrochloric acid and stirring is continued at 25° C. until the rearrangement reaction has ended (test: hydrazo compound no longer detectable). The crude product is purified by filtration, dissolving in hot water and clarification of the solution with Carboraffin. Precipitation with concentrated hydrochloric acid gives 106 g of 3,3'-diisobutoxybenzidine dichlorohydrate having a diazotization value of 96%, melting point 270° C.

reactant | o-nitro-isobutoxybenzene | 293 g | [N+](=O)([O-])C1=C(C=CC=C1)OCC(C)C | C10H13NO3
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | iron | [Fe] | Fe
catalyst | zinc | 220 g | [Zn] | Zn
catalyst | zinc oxide hydrate | O.[O-2].[Zn+2]
solvent | water | O | H2O
solvent | water | 21 g | O | H2O
product | 3,3'-diisobutoxybenzidine | 106 g | C(C(C)C)OC=1C=C(C=CC1N)C1=CC(=C(N)C=C1)OCC(C)C | C20H28N2O2
